US09388138B2
(E)-2-(2-(Quinolin-2-yl)prop-1-enyl)phenyl Acetate
2-Ethylquinoline (1.57 g, 10.0 mmol, 1.0 eq.) and 2-hydroxybenzaldehyde (1.06 mL, 1.22 g, 10.0 mmol, 1.0 eq.) were dissolved in acetic anhydride (1.89 mL, 2.04 g, 20.0 mmol, 2.0 eq.). The resulting mixture was heated at 150° C. for 16 h. The mixture was allowed to cool down to r.t. and was poured onto water (100 mL) and was stirred vigorously. The mixture was extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed with brine (25 mL), dried over sodium sulfate and concentrated under reduced pressure which gave the crude product (3.63 g) as a clear orange oil. The crude product was purified by column chromatography (SiO2, 1:5 ethyl acetate-cyclohexane) twice, which yielded the product (2.22 g, 73% yield) as a clear colourless oil.

reactant | 2-Ethylquinoline | 10.0 mmol, 1.57 g, 1.0 eq. | C(C)C1=NC2=CC=CC=C2C=C1 | C11H11N
reactant | 2-hydroxybenzaldehyde | 10.0 mmol, 1.06 mL, 1.22 g, 1.0 eq. | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | acetic anhydride | 20.0 mmol, 1.89 mL, 2.04 g, 2.0 eq. | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-2-(2-(Quinolin-2-yl)prop-1-enyl)phenyl Acetate | 2.22 g, 73% yield | C(C)(=O)OC1=C(C=CC=C1)\C=C(/C)\C1=NC2=CC=CC=C2C=C1 | C20H17NO2
